data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:2]1[cH:10][cH:3][c:5]2[c:11]([o+:6][c:8](-[c:18]3[cH:15][cH:12][cH:19][cH:13][cH:16]3)[cH:7][cH:17]2)[cH:21]1.[n:1]1[cH:14][nH:4][cH:9][cH:20]1>>[n:1]1([CH:17]2[c:5]3[cH:3][cH:10][cH:2][cH:21][c:11]3[O:6][C:8]([c:18]3[cH:15][cH:12][cH:19][cH:13][cH:16]3)=[CH:7]2)[cH:14][nH+:4][cH:9][cH:20]1", "epd": [["LP-/Pi+", [4], [14, 4]], ["Pi-/Sigma+", [1, 14], [1, 17]], ["Pi-/Pi+", [17, 7], [7, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "O-Glycosylation sequence", "rsmi": "[CH3:7][CH2:11][O:9][H:10].[O:1]1[CH:3]([Br:8])[CH2:2][CH2:6][CH2:4][CH2:5]1>>[Br:8][H:10].[O:1]1[CH:3]([O:9][CH2:11][CH3:7])[CH2:2][CH2:6][CH2:4][CH2:5]1", "epd": [["LP-/Sigma+", [9], [3, 9]], ["Sigma-/LP+", [3, 8], [8]], ["LP-/Sigma+", [8], [8, 10]], ["Sigma-/LP+", [9, 10], [9]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[N+:4](=[N-:14])=[N-:15].[cH:1]1[cH:2][cH:11][cH:5][c:6]2[c:3]1[N+:17]([CH3:8])=[CH:10][C:9]2=[CH:7][c:16]1[cH:12][cH:18][cH:20][cH:19][cH:13]1>>[cH:1]1[cH:2][cH:11][cH:5][c:6]2[c:3]1[n:17]([CH3:8])[cH:10][c:9]2[CH:7]([N-:14][N+:4]#[N:15])[c:16]1[cH:12][cH:18][cH:20][cH:19][cH:13]1", "epd": [["LP-/Pi+", [15], [4, 15]], ["Pi-/Sigma+", [14, 4], [14, 7]], ["Pi-/Pi+", [7, 9], [9, 10]], ["Pi-/LP+", [10, 17], [17]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:3][C:11](=[C:4]=[N-:17])[c:18]1[cH:23][cH:27][cH:31][cH:28][cH:24]1.[O:1]=[S:34](=[O:2])([c:16]1[cH:6][cH:12][c:22]([CH3:35])[cH:13][cH:7]1)[n:25]1[cH:15][c:20]([N+:19](=[O:8])[O-:9])[c:21]2[cH:10][cH:29][c:14]([N+:33](=[O:30])[O-:32])[cH:5][c:26]21>>[O:1]=[S:34](=[O:2])([c:16]1[cH:6][cH:12][c:22]([CH3:35])[cH:13][cH:7]1)[N:25]1[CH:15]([C:11]([CH3:3])([C:4]#[N:17])[c:18]2[cH:23][cH:27][cH:31][cH:28][cH:24]2)[C:20](=[N+:19]([O-:8])[O-:9])[c:21]2[cH:10][cH:29][c:14]([N+:33](=[O:30])[O-:32])[cH:5][c:26]21", "epd": [["LP-/Pi+", [17], [4, 17]], ["Pi-/Sigma+", [11, 4], [11, 15]], ["Pi-/Pi+", [15, 20], [20, 19]], ["Pi-/LP+", [19, 8], [8]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:33](=[O:2])([c:16]1[cH:4][cH:12][c:23]([CH3:34])[cH:13][cH:5]1)[n:25]1[cH:15][c:20]([N+:19](=[O:9])[O-:10])[c:21]2[cH:11][cH:28][c:14]([N+:31](=[O:29])[O-:30])[cH:3][c:26]21.[cH:6]1[cH:17][c:24]([S-:32])[cH:18][cH:7][c:22]1[O:27][CH3:8]>>[O:1]=[S:33](=[O:2])([c:16]1[cH:4][cH:12][c:23]([CH3:34])[cH:13][cH:5]1)[N:25]1[CH:15]([S:32][c:24]2[cH:17][cH:6][c:22]([O:27][CH3:8])[cH:7][cH:18]2)[C:20](=[N+:19]([O-:9])[O-:10])[c:21]2[cH:11][cH:28][c:14]([N+:31](=[O:29])[O-:30])[cH:3][c:26]21", "epd": [["LP-/Sigma+", [32], [32, 15]], ["Pi-/Pi+", [15, 20], [20, 19]], ["Pi-/LP+", [19, 9], [9]]]}
{"reaction_name": "Amine-to-imine oxidation", "rsmi": "[CH:1]([N:2]([CH3:5])[H:7])([CH3:4])[H:6].[c:9]1([I+:8][O-:3])[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[CH:1](=[N:2][CH3:5])[CH3:4].[O:3]([H:6])[H:7].[c:9]1([I:8])[cH:10][cH:11][cH:12][cH:13][cH:14]1", "epd": [["Sigma-/Pi+", [1, 6], [1, 2]], ["LP-/Sigma+", [3], [3, 6]], ["Sigma-/Sigma+", [2, 7], [3, 7]], ["Sigma-/LP+", [3, 8], [8]]]}
{"reaction_name": "Atherton–Todd rearrangement", "rsmi": "[CH3:3][O:5][P:9]([O:6][CH3:4])(=[O:8])[H:11].[Cl:1][Cl:2].[N:7]([CH3:10])([H:12])[H:13]>>[CH3:3][O:5][P:9]([O:6][CH3:4])([N:7]([CH3:10])[H:13])=[O:8].[Cl:1][H:11].[Cl:2][H:12]", "epd": [["Sigma-/Sigma+", [7, 12], [7, 9]], ["Sigma-/Sigma+", [9, 11], [1, 11]], ["Sigma-/Sigma+", [1, 2], [2, 12]]]}
{"reaction_name": "Payne rearrangement", "rsmi": "[O:1]1[CH:3]([O-:5])[CH2:2][CH2:4]1>>[O:1]1[CH2:2][CH:3]1[CH2:4][O-:5]", "epd": [["Sigma-/Sigma+", [2, 4], [3, 4]], ["Sigma-/Sigma+", [3, 5], [4, 5]], ["Sigma-/Sigma+", [1, 4], [1, 2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1](=[O:2])([c:10]1[cH:8][c:11]([N+:17](=[O:7])[O-:38])[cH:18][c:9]2[c:43]1[n:13][o:39][n+:44]2[O-:3])[O-:12].[c:4]1([P:37]([c:5]2[cH:20][cH:26][c:41]([N:15]([CH3:33])[CH3:34])[cH:27][cH:21]2)[c:6]2[cH:22][cH:28][c:42]([N:16]([CH3:35])[CH3:36])[cH:29][cH:23]2)[cH:19][cH:25][c:40]([N:14]([CH3:31])[CH3:32])[cH:30][cH:24]1>>[N+:1](=[O:2])([C:10]1=[CH:8][C:11](=[N+:17]([O-:7])[O-:38])[CH:18]([P+:37]([c:4]2[cH:19][cH:25][c:40]([N:14]([CH3:31])[CH3:32])[cH:30][cH:24]2)([c:5]2[cH:20][cH:26][c:41]([N:15]([CH3:33])[CH3:34])[cH:27][cH:21]2)[c:6]2[cH:22][cH:28][c:42]([N:16]([CH3:35])[CH3:36])[cH:29][cH:23]2)[c:9]2[c:43]1[n:13][o:39][n+:44]2[O-:3])[O-:12]", "epd": [["LP-/Sigma+", [37], [37, 18]], ["Pi-/Pi+", [18, 11], [11, 17]], ["Pi-/LP+", [17, 7], [7]]]}
